US04242507
In benzene (200 ml) are dissolved 1-hydroxy-6-vinyl-1,2,3-benzotriazole (31.2 g) and triethylamine (20 g) under stirring and thereto is added dropwise a solution of p-vinylbenzenesulfonyl chloride (39.2 g) in benzene (70 ml) under ice-cooling to 10° C. The mixture is stirred at room temperature for 3.5 hours. The reaction mixture is poured onto ice-water (1 liter) and the mixture is extracted with ethyl acetate (500 ml, three times). The combined extracts are washed with an aqueous sodium hydrogen carbonate and then water, dried over anhydrous magnesium sulfate, treated with charcoal, and then concentrated under a reduced pressure till about 150 ml. To the mixture is added n-hexane and the mixture is allowed to stand at a cooled place. The precipitated crystals are separated by filtration to give 1-(p-vinylbenzenesulfonyloxy)-6-vinyl-1,2,3-benzotriazole (28.0 g), melting point: 85°-87° C. To the filtrate is further added n-hexane and the mixture is allowed to stand at a cooled place to give additionally the desired product (11.7 g).

reactant | 1-hydroxy-6-vinyl-1,2,3-benzotriazole | 31.2 g | ON1N=NC2=C1C=C(C=C2)C=C | C8H7N3O
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
reactant | p-vinylbenzenesulfonyl chloride | 39.2 g | C(=C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO2S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-vinylbenzenesulfonyloxy)-6-vinyl-1,2,3-benzotriazole | 28.0 g | C(=C)C1=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)C=C | C16H13N3O3S
